US05948911
The reaction procedure as above wherein 3,4-dimethoxy-benzylamine is reacted with 4-(4-chloro-5-methyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(3,4-dimethoxybenzylamino)-5-methyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester.

reactant | 3,4-dimethoxy-benzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 4-(4-chloro-5-methyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC=C2C)Cl)=O | C15H11ClN2O2S
product | 4-[4-(3,4-dimethoxybenzylamino)-5-methyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC=C2C)NCC2=CC(=C(C=C2)OC)OC)=O | C24H23N3O4S
